US08633173B2
N(8)-(2-Methoxy-5-trifluoromethyl-phenyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridine-8-yl)-(2-methoxy-5-trifluoromethyl-phenyl)-amine, 3-(4-methylpiperazin-1-yl)aniline with 2,2′-bis-dicyclohexylphosphanyl-biphenyl as the ligand in a manner analogous to Example 2d (0.005 g, 20%). MP=198-200° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.44 (s, 1H), 8.37 (d, 1H), 7.61 (s, 1H), 7.43 (s, 1H), 7.30 (m, 2H), 7.24 (s, 1H), 7.16 (m, 2H), 7.09 (m, 1H), 6.93 (m, 1H), 6.48 (m, 1H), 3.97 (s, 3H), 3.10 (m, 4H), 2.45 (m, 4H), 2.21 (s, 3H). MS=498 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridine-8-yl)-(2-methoxy-5-trifluoromethyl-phenyl)-amine | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C14H10ClF3N4O
reactant | 3-(4-methylpiperazin-1-yl)aniline | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methoxy-5-trifluoromethyl-phenyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | COC1=C(C=C(C=C1)C(F)(F)F)NC=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCN(CC2)C | C25H26F3N7O
